US07135480B2
1-Benzoyl-3-cyano-7-methyl-pyrrolo[1,2-a]quinoline
The title compound was prepared from 6-methyl-1-phenacyl-quinolinium bromide (103 mg, 0.300 mmol), tetrapyridinecobalt(II) dichromate (193 mg, 0.317 mmol), sodium bicarbonate (63.4 mg, 0.755 mmol), acrylonitrile (100 μL, 1.52 mmol), and N,N-dimethylformamide (2.0 mL), similar to Example 1b, and yielded 40.2 mg (43%) as a yellow solid. 1H NMR (CDCl3): 8.06 (m, 2H), 7.98 (d, J=8.76 Hz, 1H), 7.62–7.71 (m, 4H), 7.57 (t, J=7.56 Hz, 2H), 7.42 (m, 2H), 2.51 (s, 3H).

reactant | 6-methyl-1-phenacyl-quinolinium bromide | 0.300 mmol, 103 mg | [Br-].CC=1C=C2C=CC=[N+](C2=CC1)CC(=O)C1=CC=CC=C1
reactant | dichromate | 0.317 mmol, 193 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | sodium bicarbonate | 0.755 mmol, 63.4 mg | C([O-])(O)=O.[Na+]
reactant | acrylonitrile | 1.52 mmol, 100 μL | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 1-Benzoyl-3-cyano-7-methyl-pyrrolo[1,2-a]quinoline | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1C1=CC=C(C=C1C=C2)C)C#N | C21H14N2O
